US08314091B2
B: N-tert-Butyl-3-((4-(4-(3-neopentylureido)-2-(trifluoromethyl)benzoyl)piperazin-1-yl)methyl)benzamide
To a stirred solution of 3-((4-(4-amino-2-(trifluoromethyl)benzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide (0.123 mmol, 57 mg) in dichloromethane (2 mL) was added 4-nitrophenylchloroformate (0.123 mmol, 24.84 mg). After 1 hour stirring, 2,2-dimethylpropan-1-amine (0.123 mmol, 10.74 mg) was added and stirring was continued for 1 hour. The reaction was concentrated under reduced pressure and the residue dissolved in methanol (1 mL). Purification by basic reverse phase HPLC gave the title compound (27 mg).

reactant | 3-((4-(4-amino-2-(trifluoromethyl)benzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 0.123 mmol, 57 mg | NC1=CC(=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1)C(F)(F)F | C24H29F3N4O2
reactant | 4-nitrophenylchloroformate | 0.123 mmol, 24.84 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | 2,2-dimethylpropan-1-amine | 0.123 mmol, 10.74 mg | CC(CN)(C)C | C5H13N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-tert-Butyl-3-((4-(4-(3-neopentylureido)-2-(trifluoromethyl)benzoyl)piperazin-1-yl)methyl)benzamide | 27 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=C(C=C(C=C1)NC(=O)NCC(C)(C)C)C(F)(F)F)=O)=O | C30H40F3N5O3
